US08937080B2
Step b: 2,6-Dimethoxypyrimidin-4-ol (18b)
A suspension of 4-chloro-2,6-dimethoxy-pyrimidine (4.9 g, 28 mmol), DABCO (6.4 g, 57 mmol) and potassium carbonate (13.8 g, 100 mmol) was refluxed in water (150 ml) for one hour. The mixture was cooled acidified with 5% citric acid and extracted three times with ethyl acetate and three times with DCM with about 105 THF and 10% MeOH. The combined organic phases were dried and evaporated which gave the title compound (1.5 g, 34%), (M+H)+1 157.

reactant | 4-chloro-2,6-dimethoxy-pyrimidine | 28 mmol, 4.9 g | ClC1=NC(=NC(=C1)OC)OC | C6H7ClN2O2
reactant | DABCO | 57 mmol, 6.4 g | C1CN2CCN1CC2 | C6H12N2
reactant | potassium carbonate | 100 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | water | 150 ml | O | H2O
product | 2,6-Dimethoxypyrimidin-4-ol | 1.5 g, 34% | COC1=NC(=CC(=N1)O)OC | C6H8N2O3
